US07317036B2
Step 1: (+/−)-ethyl (8-bromo-6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)acetate
To a suspension of 7.24 g of (2-bromo-4-fluorophenyl)hydrazine hydrochloric acid salt in 100 mL of acetic acid, 5.5 g of ethyl 2-(2-oxocyclohexyl)-acetate was added. The resulting mixture was heated to reflux for 1 h. Then 10 mL of ethanol was added and the reaction mixture was heated at reflux overnight. The solvent was evaporated and the residue was diluted with EtOAc and washed with saturated aqueous NaHCO3 solution, water, and brine successively. The organic layer was separated and dried over anhydrous sodium sulfate, filtered, and evaporated. The residue was purified by flash chromatography over silica gel (5% EtOAc/hexane) to afford 3.12 g of desired compound.

reactant | (2-bromo-4-fluorophenyl)hydrazine hydrochloric acid salt | 7.24 g | Cl.BrC1=C(C=CC(=C1)F)NN
reactant | ethyl 2-(2-oxocyclohexyl)-acetate | 5.5 g | O=C1C(CCCC1)CC(=O)OCC | C10H16O3
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | (+/−)-ethyl (8-bromo-6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)acetate | 3.12 g | BrC=1C=C(C=C2C=3CCCC(C3NC12)CC(=O)OCC)F | C16H17BrFNO2
